US07582638B2
Add [4-(4-Amino-isoquinolin-1-yloxy)-piperidin-1-yl]-(1-methyl-cyclopropyl)-methanone (Preparation 23, 331.00 g, 1.02 moles), THF (3.97 L, 48.79 moles), [5-(1-Methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloro-ethyl ester (Preparation 18, 410.00 g, 1.02 moles), and DIPE (159.00 g, 1.22 moles) to a 12 L Morton flask equipped with overhead stirrer, thermocouple, and reflux condenser. Reflux the mixture for 22 hours. Cool reaction to <50° C. and treat with carbon (Darco G-60; 33.00 g, 2.75 moles). Stir the slurry for 30 minutes at 43-50° C., then filter over micro fiber paper and Hyflo Super Cel® (27.00 g). Seed the filtrate and allow to cool at ambient temperature during precipitation. Pack the resulting slurry in ice and stir overnight. Filter the solids, wash with THF (300.00 mL, 3.69 moles), and dry under reduced pressure at 40° C. Subject residue to silica gel chromatography eluting with 1:3 acetone/DCM, then 30% acetone in DCM to obtain 401 g (68%) 1-{1-[1-(1-methyl-cyclopropanecarbonyl)-piperidin-4-yloxy]-isoquinolin-4-yl}-3-[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-urea as a white solid 1H NMR (300 MHz, DMSO-d6): δ 0.56 (t, J=6.0 Hz, 2H), 0.73 (t, J=6.0 Hz, 2H), 0.84 (t, J=6.0 Hz, 2H), 0.92 (t, J=6.0 Hz, 2H), 1.27 (s, 3H), 1.41 (s, 3H), 1.73-1.81 (m, 2H), 1.99-2.08 (m, 2H), 2.41 (s, 3H), 3.52-3.65 (m, 2H), 3.83-3.96 (m, 2H), 5.47-5.58 (m, 1H), 6.22 (s, 1H), 7.37 (d, J=8.1 Hz, 2H), 7.44 (d, J=8.1 Hz, 2H), 7.65-7.71 (m, 1H), 7.78-7.83 (m, 2H), 8.12 (s, 1H), 8.27 (d, J=8.4 Hz, 1H), 8.58 (s, 1H), 8.69 (s, 1H).

reactant | [4-(4-Amino-isoquinolin-1-yloxy)-piperidin-1-yl]-(1-methyl-cyclopropyl)-methanone | 1.02 moles, 331.00 g | NC1=CN=C(C2=CC=CC=C12)OC1CCN(CC1)C(=O)C1(CC1)C | C19H23N3O2
reactant | THF | 48.79 moles, 3.97 L | C1CCOC1 | C4H8O
reactant | [5-(1-Methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloro-ethyl ester | 1.02 moles, 410.00 g | ClC(COC(NC=1N(N=C(C1)C1(CC1)C)C1=CC=C(C=C1)C)=O)(Cl)Cl | C17H18Cl3N3O2
reactant | THF | 3.69 moles, 300.00 mL | C1CCOC1 | C4H8O
product | 1-{1-[1-(1-methyl-cyclopropanecarbonyl)-piperidin-4-yloxy]-isoquinolin-4-yl}-3-[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-urea | 401 g, 68% | CC1(CC1)C(=O)N1CCC(CC1)OC1=NC=C(C2=CC=CC=C12)NC(=O)NC=1N(N=C(C1)C1(CC1)C)C1=CC=C(C=C1)C | C34H38N6O3
